US05854265
Step E: 1-(4-Cyanobenzyl)-5-aminothiocarbonylmethyl-1H-imidazole
To a 50 mL round bottomed flask with a stirring bar, reflux condenser and an argon inlet was added 4-[5-(aminocarbonylmethyl) imidazol-1-ylmethyl]benzonitrile (0.36 g, 1.49 mmol), Lawesson's reagent (0.73 g, 1.8 mmol) and 1,4-dioxane (10 mL). This well stirred mixture was heated at 80° C. for 24 hours. The cooled reaction mixture was concentrated in vacuo and the residue was chromatographed (silica gel, 10% 2-propanol in ammonia saturated CHCl3). The title compound was obtained as a yellow, crystalline solid.

reactant | 4-[5-(aminocarbonylmethyl) imidazol-1-ylmethyl]benzonitrile | 1.49 mmol, 0.36 g | NC(=O)CC1=CN=CN1CC1=CC=C(C#N)C=C1 | C13H12N4O
reactant | Lawesson's reagent | 1.8 mmol, 0.73 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Cyanobenzyl)-5-aminothiocarbonylmethyl-1H-imidazole | C(#N)C1=CC=C(CN2C=NC=C2CC(=S)N)C=C1 | C13H12N4S
